US06057358
2-(3,4-Dimethoxyphenyl)-N-isopropylethylamine (2.4 g, 11 mmol) and 1-[4-nitro-2-(1H-pyrrol-1-yl)phenoxy]-2-bromoethane (3.04 g, 10 mmol) were dissolved in DMF and, thereafter, potassium iodide (1.61 g, 11 mmol) and anhydrous potassium carbonate (1.5 g, 10 mmol) were added and the mixture was stirred at 80-90° C. for 1 h; thereafter, ice water was added and extraction was conducted with ethyl acetate. The extracted organic layer was dried with magnesium sulfate and the solvent was evaporated; the resulting residue was purified by being subjected to column chromatography on silica gel using a 7:3:1 solvent system of cyclohexane, ethyl acetate and methanol as an eluent. The fractions containing the product were collected and the solvent was evaporated to yield the end compound 1-[4-nitro-2-(1H-pyrrol-1-yl)phenoxy]-2-[N-(3,4-dimethoxyphenethyl)-N-isopropylamino]ethane (0.9 g).

reactant | 2-(3,4-Dimethoxyphenyl)-N-isopropylethylamine | 11 mmol, 2.4 g | COC=1C=C(C=CC1OC)CCNC(C)C | C13H21NO2
reactant | 1-[4-nitro-2-(1H-pyrrol-1-yl)phenoxy]-2-bromoethane | 10 mmol, 3.04 g | [N+](=O)([O-])C1=CC(=C(OCCBr)C=C1)N1C=CC=C1 | C12H11BrN2O3
reactant | potassium iodide | 11 mmol, 1.61 g | [I-].[K+]
reactant | potassium carbonate | 10 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[4-nitro-2-(1H-pyrrol-1-yl)phenoxy]-2-[N-(3,4-dimethoxyphenethyl)-N-isopropylamino]ethane | 0.9 g | [N+](=O)([O-])C1=CC(=C(OCCN(C(C)C)CCC2=CC(=C(C=C2)OC)OC)C=C1)N1C=CC=C1 | C25H31N3O5
